US07989445B2
N′-[4-[2-[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]ethyl]phenyl]-N-methylacetohydrazide
tert-Butyl 2-acetyl-1-[4-[2-[6-(4-chlorophenyl) -4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]ethyl]phenyl]-2-methylhydrazinecarboxylate (356 mg) was dissolved in dichloromethane (6.5 ml), and trifluoroacetic acid (2.0 ml) was added. The reaction mixture was stirred at room temperature for 1.5 hr, and diluted with dichloromethane. The obtained diluted solution was washed with saturated aqueous sodium hydrogen carbonate solution, the organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The precipitated crystals were washed with ethyl acetate-diisopropyl ether to give the title compound (287 mg) as colorless crystals.

reactant | tert-Butyl 2-acetyl-1-[4-[2-[6-(4-chlorophenyl) -4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]ethyl]phenyl]-2-methylhydrazinecarboxylate | 356 mg | C(C)(=O)N(N(C(=O)OC(C)(C)C)C1=CC=C(C=C1)CCN1C=NC2=C(C1=O)SC(=C2)C2=CC=C(C=C2)Cl)C | C28H29ClN4O4S
reactant | trifluoroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6.5 ml | ClCCl | CH2Cl2
product | N′-[4-[2-[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]ethyl]phenyl]-N-methylacetohydrazide | 287 mg | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CCC1=CC=C(C=C1)NN(C(C)=O)C | C23H21ClN4O2S
